US07662402B2
To 10 ml of ethylene glycol dimethyl ether, 6.2 g of 4,4,5,5,5-pentafluoropentyl trifluoromethanesulfonate, 1.6 g of 2-(3,3,3-trifluoropropyl)malononitrile and 1.4 g of potassium carbonate were added and the mixture was stirred at room temperature for 5 hours. Thereafter, dilute hydrochloric acid was added to the reaction mixture and the mixture was extracted with t-butyl methyl ether. The organic layer was washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.65 g of 2-(4,4,5,5,5-pentafluoropentyl)-2-(3,3,3-trifluoropropyl)malononitrile (hereinafter, referred to as the present compound (89)).

reactant | 4,4,5,5,5-pentafluoropentyl trifluoromethanesulfonate | 6.2 g | FC(S(=O)(=O)OCCCC(C(F)(F)F)(F)F)(F)F | C6H6F8O3S
reactant | 2-(3,3,3-trifluoropropyl)malononitrile | 1.6 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene glycol dimethyl ether | 10 ml | COCCOC | C4H10O2
product | 2-(4,4,5,5,5-pentafluoropentyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.65 g | FC(CCCC(C#N)(C#N)CCC(F)(F)F)(C(F)(F)F)F | C11H10F8N2
